US04451484
Under a dry nitrogen atmosphere a solution of 6,7-dihydro-5e,uns/H/ -dibenzo[a,c]cycloheptene-4-carbonitrile (2.95 grams, 0.0134 mole), potassium hydroxide (4 grams, 0.085 mole), ethylene glycol (40 ml) and water (3 ml) was heated at reflux for approximately 24 hours. The mixture was cooled, diluted with water, and the solution was washed with diethyl ether. The aqueous solution was acidified and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to give a white solid. The solid was combined with similar material prepared in a separate experiment, and the combined solids were recrystallized from n-hexane to give 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carboxylic acid (mp 137°-139°) as nearly white crystals.

reactant | dibenzo[a,c]cycloheptene-4-carbonitrile | 0.0134 mole, 2.95 grams | C1C=CC(=C2C1=C1C(=CC=C2)C=CC=C1)C#N | C16H11N
reactant | potassium hydroxide | 0.085 mole, 4 grams | [OH-].[K+]
reactant | ethylene glycol | 40 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carboxylic acid | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)C(=O)O | C16H14O2
